US07683026B2
107 g of Ac-D-Lys(Z)-D-Pro-D-Val-NH2 are dissolved in 535 ml of EtOH, added with 214 ml of AcOH and of 21.4 g of Pd/C at 10% at 50% water. The hydrogenation is conducted at 20° C., under a 1 bar hydrogen pressure for 16 hours. The reaction completion is CCM controlled. The catalyst is filtered and the filtrate is vacuum concentrated until refusal. The residue is recovered with 107 ml of EtOH, added with 430 ml of iPrOH and the blend is heated at 50° C., then added dropwise at 50° C. with 1500 ml of diisopropyl ether. The expected product crystallizes. The medium is cooled down to 20° C. and stirred for 1 hour. The solid is filtered and washed with 500 ml of diisopropyl ether before being vacuum dried at 25° C. so to provide 78.3 g of Ac-D-Lys-D-Pro-D-Val-NH2 under the form of an acetate salt (yield 85.4%). The thus obtained product purity is HPLC controlled.

reactant | Ac-D-Lys(Z)-D-Pro-D-Val-NH2 | 107 g | N([C@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)N[C@H](C(C)C)C(=O)N)CCC1)C(=O)C | C26H39N5O6
reactant | AcOH | 214 ml | CC(=O)O | C2H4O2
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 535 ml | CCO | C2H6O
catalyst | Pd/C | 21.4 g | [Pd] | Pd
product | Ac-D-Lys-D-Pro-D-Val-NH2 | 78.3 g | N([C@H](CCCCN)C(=O)N1[C@@H](C(=O)N[C@H](C(C)C)C(=O)N)CCC1)C(=O)C | C18H33N5O4
